US08217204B2
By adding 0.45 g of Raney nickel to 283.8 g of the thus obtained 1-isopulegol, 10 hours of hydrogenation was carried out at 70° C. under a hydrogen pressure of 2.5 MPa. By carrying out filtration and distillation of the reaction solution, 273.5 g (1.75 mol, 71.24% e.e.) of 1-menthol was obtained.

reactant | 1-isopulegol | C[C@@H]1CC[C@H]([C@@H](C1)O)C(=C)C | C10H18O
catalyst | Raney nickel | 0.45 g | [Ni] | Ni
product | 1-menthol | 1.75 mol, 273.5 g | C[C@@H]1CC[C@H]([C@@H](C1)O)C(C)C | C10H20O
